US07923568B2
To a stirring suspension of 6-chloro-3,9,10,11-tetrahydro-8,10a -methanoazuleno[2,1-e]indazol-7(8H)-one (305 mg, 1.07 mmol) in EtOH (30 mL) was added sodium borohydride (122 mg, 3.2 mmol) at room temperature. A bright yellow color appeared shortly after this addition and with time the reaction mixture became homogeneous. The reaction mixture was stirred at room temperature for 3 hours after which saturated aqueous ammonium chloride was added in portions until bubbling stopped. The reaction mixture was then diluted with ethyl acetate and washed with water followed by brine. The organic phase was dried over sodium sulfate, filtered through a small pad of silica gel, and then concentrated under vacuum to yield (rac)-(7R,8R,10aS)-6-chloro-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno-[2,1-e]indazol-7-ol as a faintly yellow solid.

reactant | 6-chloro-3,9,10,11-tetrahydro-8,10a -methanoazuleno[2,1-e]indazol-7(8H)-one | 1.07 mmol, 305 mg | ClC=1C(C2CCC3(CC=4C=5C=NNC5C=CC4C13)C2)=O | C16H13ClN2O
reactant | sodium borohydride | 3.2 mmol, 122 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | (rac)-(7R,8R,10aS)-6-chloro-3,7,8,9,10,11-hexahydro-8,10a-methanoazuleno-[2,1-e]indazol-7-ol | ClC=1[C@@H]([C@@H]2CC[C@@]3(CC=4C=5C=NNC5C=CC4C13)C2)O | C16H15ClN2O
